US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester (25 mg) was reacted with 2-nitro-benzenesulfonyl chloride to give (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-(2-nitro-benzenesulfonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester according to General Procedure E. This product (21 mg) was hydrolyzed according to General Procedure B to give the title compound (16 mg). LCMS (m/z): 919.

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester | 25 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H35Cl2N3O6
reactant | 2-nitro-benzenesulfonyl chloride | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-(2-nitro-benzenesulfonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(C=CC=C3)[N+](=O)[O-])=O | C48H38Cl2N4O10S
